US08629147B2
2-[2-Hydroxy-5-(2-methoxy-pyridin-3-yl)-phenyl]-7-methyl-3H-benzimidazole-5-carboxylic acid {4-[2-(4-methyl-piperazin-1-yl)-ethyl]-phenyl}-amide
To a solution of the crude of 2-[2-hydroxy-5-(2-methoxy-pyridin-3-yl)-phenyl]-7-methyl-3H-benzoimidazole-5-carboxylic acid (estimated 0.4 mmol), 4-[2-(4-methyl-piperazin-1-yl)-ethyl]-phenylamine (88 mg, 0.4 mmol) and HATU (167 mg, 0.44 mmol) in DMF (5 mL) was added DIEA (0.5 mL, 371 mg, 2.87 mmol). The reaction mixture was stirred at room temperature for 2 h and heated at 60° C. for 15 h, and then evaporated to dry under reduced pressure. The residue was diluted with DMSO (1.5 mL), filtered and then purified with using HPLC (TFA/H2O/CH3CN) to afford the title compound (34.5 mg, 11% from two steps from 3,4-diamino-5-methyl-benzoic acid). 1H NMR (MeOH-d4) δ 2.77 (s, 3H), 2.90 (s, 3H), 2.97-3.43 (12H), 3.97 (s, 3H), 7.09 (m, 1H), 7.22 (d, J=9 Hz, 1H), 7.31 (d, J=9 Hz, 2H), 7.70 (d, J=9 Hz, 2H), 7.82-7.84 (2H), 7.91 (s, 1H), 8.17 (m, 1H), 8.20 (s, 1H), 8.31 (s, 1H). ESI-MS m/z 577.5 (MH+).

reactant | 2-[2-hydroxy-5-(2-methoxy-pyridin-3-yl)-phenyl]-7-methyl-3H-benzoimidazole-5-carboxylic acid | 0.4 mmol | OC1=C(C=C(C=C1)C=1C(=NC=CC1)OC)C=1NC2=C(N1)C(=CC(=C2)C(=O)O)C | C21H17N3O4
reactant | 4-[2-(4-methyl-piperazin-1-yl)-ethyl]-phenylamine | 0.4 mmol, 88 mg | CN1CCN(CC1)CCC1=CC=C(C=C1)N | C13H21N3
reactant | HATU | 0.44 mmol, 167 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 2.87 mmol, 0.5 mL, 371 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-[2-Hydroxy-5-(2-methoxy-pyridin-3-yl)-phenyl]-7-methyl-3H-benzimidazole-5-carboxylic acid {4-[2-(4-methyl-piperazin-1-yl)-ethyl]-phenyl}-amide | 34.5 mg, 11% | CN1CCN(CC1)CCC1=CC=C(C=C1)NC(=O)C1=CC2=C(N=C(N2)C2=C(C=CC(=C2)C=2C(=NC=CC2)OC)O)C(=C1)C | C34H36N6O3
